US04206120
4-Methylthioazetidin-2-one (2.34 g, 20 mmole) was dissolved in dry dimethylformamide (40 ml) and treated at 0°-5° C. with sodium hydride (20 mmole). After 3 minutes methyl bromoacetate (3.37 g, 22 mmole) dissolved in dry dimethylformamide (20 ml) was added and the reaction mixture stirred for 3/4 hour at 0°-5° C. After diluting with water (300 ml), the mixture was extracted with ethyl acetate (3×100 ml) and the extracts combined, washed with water, dried (MgSO4) and evaporated. Chromatography of the residue on silica gel eluting with 30% ethyl acetate in petrolether provided methyl (4-methylthio-2-oxoazetidin-1-yl)acetate (2.4 g, 62%) as a mobile liquid. νmax (CHCl3): 1760 (b), 1410, 1240, 1185 cm-1 ; δ(CDCl3): 2.13 (s, 3H, SCH3); 2.95-3.75 (2H, AB of ABX, CH2); 3.88 (s, 3H, OCH3); 3.93 and 4.23 (2H, main peaks of ABq, J=18 Hz, NCH2) and 5.02 (1H, X of ABX, CH).

reactant | 4-Methylthioazetidin-2-one | 20 mmole, 2.34 g | CSC1CC(N1)=O | C4H7NOS
reactant | sodium hydride | 20 mmole | [H-].[Na+]
reactant | methyl bromoacetate | 22 mmole, 3.37 g | BrCC(=O)OC | C3H5BrO2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | 300 ml | O | H2O
product | methyl (4-methylthio-2-oxoazetidin-1-yl)acetate | 2.4 g, 62% | CSC1CC(N1CC(=O)OC)=O | C7H11NO3S
